US08476301B2
tert-Butyl N-[(3S)-1-(cyclohex-1-en-1-ylmethyl)pyrrolidin-3-yl]carbamate
1-Cyclohexene-1-carboxaldehyde (1.48 ml, 13 mmol) was added to a mixture of (3S)-(−)-3-(tert-butoxycarbonylamino)pyrrolidine (2.0 g, 10.8 mmol), acetic acid (1.24 ml, 21.6 mmol) and tetrahydrofuran (dehydrated) (27 ml), followed by stirring at mom temperature for 15 minutes, and sodium triacetoxyborohydride (4.58 g, 21.6 mmol) was then added and the reaction mixture was stirred at mom temperature for 17 hours and 45 minutes. A saturated aqueous sodium bicarbonate solution was added to the reaction mixture, which was extracted with ethyl acetate. The organic layer was dried over sodium sulfate, and the solvent was distilled off. The residue was purified by NH silica gel column chromatography (elution solvent: ethyl acetate/heptane) to give the title compound (1.3 g, yield: 42.9%).

reactant | 1-Cyclohexene-1-carboxaldehyde | 13 mmol, 1.48 ml | C1(=CCCCC1)C=O | C7H10O
reactant | (3S)-(−)-3-(tert-butoxycarbonylamino)pyrrolidine | 10.8 mmol, 2.0 g | C(C)(C)(C)OC(=O)N[C@@H]1CNCC1 | C9H18N2O2
reactant | acetic acid | 21.6 mmol, 1.24 ml | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 21.6 mmol, 4.58 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 27 ml | O1CCCC1 | C4H8O
product | tert-Butyl N-[(3S)-1-(cyclohex-1-en-1-ylmethyl)pyrrolidin-3-yl]carbamate | 1.3 g, yield: 42.9% | C1(=CCCCC1)CN1C[C@H](CC1)NC(OC(C)(C)C)=O | C16H28N2O2
